US05728370
Bis-(8-ethoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole-4-yl)-mono-(8-ethoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)methanol
Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole-4-yl)-mono-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)methanol (0.50 g, 0.61 mmol) was dissolved in dry benzene (6.0 mL) under an atmosphere of argon. t-Butyllitium (2.44 mL, 1.5M in pentane) and TMEDA (0.545 mL, 3.66 mmol) were added. The reaction mixture was subjected to ultrasound for 25 min. and was then slowly added to a solution of diethyl carbonate (7.2 mL, 59.4 mmol) in dry benzene (16 mL). After stirring for 1.5 h, aqueous NaH2PO4 (50 mL) was added. The organic layer was separated, washed with water, dried (Na2SO4) and evaporated. After purification by preparative HPLC 130.0 mg (21%)) of the pure product was obtained. 1H NMR (CDCl3, 300 MHz) δ: 4.98 (s, 1H), 4.28-4.37 (m, 6H), 1.48-1.79 (m, 36H), 1.46 (t, 6H, J 7.0 Hz), 1.38 (t, 3H, J 7.0 Hz).

reactant | Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole-4-yl)-mono-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)methanol | 0.61 mmol, 0.50 g | CC1(SC2=C(S1)C(=C1C(SC(S1)(C)C)=C2)C(O)(C2=C1C(OC(O1)(C)C)=CC1=C2OC(O1)(C)C)C1=C2C(SC(S2)(C)C)=CC2=C1SC(S2)(C)C)C | C37H40O5S8
reactant | t-Butyllitium | 1.5M, 2.44 mL | C(C)(C)(C)[Li]
reactant | TMEDA | 3.66 mmol, 0.545 mL | CN(C)CCN(C)C | C6H16N2
reactant | diethyl carbonate | 59.4 mmol, 7.2 mL | C(OCC)(OCC)=O | C5H10O3
solvent | benzene | 6.0 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 16 mL | C1=CC=CC=C1 | C6H6
product | Bis-(8-ethoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole-4-yl)-mono-(8-ethoxycarbonyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)methanol | C(C)OC(=O)C1=C2SC(SC2=C(C=2SC(SC21)(C)C)C(O)(C2=C1C(OC(O1)(C)C)=C(C1=C2OC(O1)(C)C)C(=O)OCC)C1=C2C(SC(S2)(C)C)=C(C2=C1SC(S2)(C)C)C(=O)OCC)(C)C | C46H52O11S8
